US05173484
a) Methyl 3-ethylaminomethyl-3-hydroxypiperidine-1-carboxylate
9.3 g (54.3 mmol) of methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate are added dropwise to 50 ml of ethylamine solution (50% strength in water) and the mixture is stirred overnight at room temperature. It is then concentrated and the reside is distilled.

reactant | methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate | 54.3 mmol, 9.3 g | O1CC12CN(CCC2)C(=O)OC | C8H13NO3
reactant | ethylamine | 50 ml | C(C)N | C2H7N
product | Methyl 3-ethylaminomethyl-3-hydroxypiperidine-1-carboxylate | C(C)NCC1(CN(CCC1)C(=O)OC)O | C10H20N2O3
